US05545515
Preparation of 3-ethoxy-2-(phenylsulfonyl)propenenitrile (CN-04):
A solution of (phenylsulfonyl)acetonitrile (10.5 g, 0.089 mol) in triethyl orthoformate (21 mL, 0.14 mol) and acetic anhydride (21 mL, 0.2 mol) was heated at 160° C. with removal of ethyl acetate (35 mL). The dark oily residue was dissolved in methanol (60 mL) and the solution was concentrated and recrystallized from hexanes/ethyl acetate to yield (11.98 g, 78%) of the desired product.

reactant | (phenylsulfonyl)acetonitrile | 0.089 mol, 10.5 g | C1(=CC=CC=C1)S(=O)(=O)CC#N | C8H7NO2S
reactant | triethyl orthoformate | 0.14 mol, 21 mL | C(OCC)(OCC)OCC | C7H16O3
reactant | acetic anhydride | 0.2 mol, 21 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | ethyl acetate | 35 mL | C(C)(=O)OCC | C4H8O2
solvent | methanol | 60 mL | CO | CH4O
product | 3-ethoxy-2-(phenylsulfonyl)propenenitrile | 11.98 g, 78% | C(C)OC=C(C#N)S(=O)(=O)C1=CC=CC=C1 | C11H11NO3S
